US06384220B2
A solution of 3-cyclopentyl-2-(4-pyridin-3-yl-phenyl)-propionic acid methyl ester (450 mg, 1.45 mmol) in tetrahydrofuran (5 mL) was treated with a 0.8M aqueous lithium hydroxide solution (2.18 mL, 1.74 mmol). The resulting reaction mixture was stirred at 25° C. for 3 d. The reaction mixture was then partitioned between water (50 mL) and ethyl acetate (50 mL), and the layers were separated. The aqueous layer was further extracted with ethyl acetate (2×50 mL). The combined organic extracts were dried over magnesium sulfate, filtered, and concentrated in vacuo. The resulting solid was purified by precipitation from methylene chloride/ethyl acetate to afford 3-cyclopentyl-2-(4-pyridin-3-yl-phenyl)-propionic acid (271 mg, 63%) as a white solid: mp 136-138° C.; EI-HRMS m/e calcd for C19H21NO2 (M+) 295.1572, found 295.1572.

reactant | 3-cyclopentyl-2-(4-pyridin-3-yl-phenyl)-propionic acid methyl ester | 1.45 mmol, 450 mg | COC(C(CC1CCCC1)C1=CC=C(C=C1)C=1C=NC=CC1)=O | C20H23NO2
reactant | lithium hydroxide | 1.74 mmol, 0.8M, 2.18 mL | [OH-].[Li+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 3-cyclopentyl-2-(4-pyridin-3-yl-phenyl)-propionic acid | 271 mg, 63% | C1(CCCC1)CC(C(=O)O)C1=CC=C(C=C1)C=1C=NC=CC1 | C19H21NO2
